US03957783
A mixture of 18.5 g of 2-amino-3-(o-fluorobenzoyl)-4-methylthiophene, 26.6 g of ethyl carbamate and 1.61 g of zinc chloride is heated at 200°C for 30 minutes. After cooling, the reaction mixture is washed with chloroform, then with water, and filtered to give crude crystals of 4-(o-fluorophenyl)-5-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one having a melting point of 258° - 261°C.

reactant | 2-amino-3-(o-fluorobenzoyl)-4-methylthiophene | 18.5 g | NC=1SC=C(C1C(C1=C(C=CC=C1)F)=O)C | C12H10FNOS
reactant | ethyl carbamate | 26.6 g | C(N)(OCC)=O | C3H7NO2
catalyst | zinc chloride | 1.61 g | [Cl-].[Zn+2].[Cl-]
product | 4-(o-fluorophenyl)-5-methyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | FC1=C(C=CC=C1)C=1C2=C(NC(N1)=O)SC=C2C | C13H9FN2OS
